US08039472B2
(E)-3,5-diamino-N-(8-(3-(4-(benzyloxy)phenyl)propanoyl)-8-azaspiro[bicyclo[3.2.1]octane-3,4′-imidazolidine]-2′-ylidene)-6-chloropyrazine-2-carboxamide
(E)-3,5-diamino-6-chloro-N-(8-azaspiro[bicyclo[3.2.1]octane-3,4′-imidazolidine]-2′-ylidene)pyrazine-2-carboxamide (prepared as described for Ex. 252) (280 mg, 0.798 mmol) is dissolved in DMF (8 ml) along with HATU (303 mg, 0.798 mmol) and 3-(4-benzyloxy-phenyl)-propionic acid (205 mg, 0.798 mmol). N-Methyl morpholine (0.263 ml, 2.394 mmol) is added and the solution stirred at room temperature for 6 hours. The mixture is then concentrated in vacuo. EtOAc (100 ml) is added and the solution washed with water (100 ml). The organic phase is dried (MgSO4) and concentrated. The residue is dissolved in MeOH (20 ml) and dry loaded onto silica (5 g). Purification by flash chromatography (SiO2, DCM/MeOH) gives the title compound as a tan solid; [M+H]+ 589.20, 591.19 for Cl isotopes.

reactant | (E)-3,5-diamino-6-chloro-N-(8-azaspiro[bicyclo[3.2.1]octane-3,4′-imidazolidine]-2′-ylidene)pyrazine-2-carboxamide | 0.798 mmol, 280 mg | NC=1C(=NC(=C(N1)N)Cl)C(=O)/N=C/1\NCC2(N1)CC1CCC(C2)N1 | C14H19ClN8O
reactant | HATU | 0.798 mmol, 303 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(4-benzyloxy-phenyl)-propionic acid | 0.798 mmol, 205 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(=O)O | C16H16O3
reactant | N-Methyl morpholine | 2.394 mmol, 0.263 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (E)-3,5-diamino-N-(8-(3-(4-(benzyloxy)phenyl)propanoyl)-8-azaspiro[bicyclo[3.2.1]octane-3,4′-imidazolidine]-2′-ylidene)-6-chloropyrazine-2-carboxamide | NC=1C(=NC(=C(N1)N)Cl)C(=O)/N=C/1\NCC2(N1)CC1CCC(C2)N1C(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C30H33ClN8O3
